US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-4-fluorobenzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 4-fluorobenzoyl chloride in a similar manner as described above to give a white solid (15% yield). 1H-NMR (DMSO-d6): δ 11.03 (s, 1H), 8.90 (d, 1H), 8.05 (m, 2H), 7.61 (d, 1H), 7.34 (d, 2H), 7.30 (s, 1H), 7.17 (dd, 1H), 5.38 (m, 1H), 2.68 (m, 2H), 2.09 (m, 2H), 1.86 (m, 2H); MS m/z 387 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-4-fluorobenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=CC=C(C=C1)F)=O | C19H16BrFN2O
